US07247648B2
A. Synthesis of Preferred Intermediate N-benzyl-3-hydroxypyridin-2-one
1-Benzyl-3-benzyloxy-1H-pyridin-2-one (Ghosh etal, J. Org. Chem. 1989, 54, 5073) is dissolved in anhydrous methanol (10 mL) and to the thoroughly degassed solution is added a catalytic amount of Pd-C (0.1%). The mixture is hydrogenated under a balloon of hydrogen, until all the starting material is consumed. At the completion, the solution is filtered through Celite™. The solvent is removed in vacuo, and the residue is washed with ether, to afford the desired product.

reactant | 1-Benzyl-3-benzyloxy-1H-pyridin-2-one | C(C1=CC=CC=C1)N1C(C(=CC=C1)OCC1=CC=CC=C1)=O | C19H17NO2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd-C | [Pd] | Pd
product | N-benzyl-3-hydroxypyridin-2-one | C(C1=CC=CC=C1)N1C(C(=CC=C1)O)=O | C12H11NO2
